US08937187B2
a) Synthesis of (7-hydroxy-2-oxo-3,4-dihydro-2H-chromen-3-yl)acetic acid (C1)
In a round-bottomed flask equipped with a Dean-Stark apparatus, 10 g of resorcinol and 11.8 g of itaconic acid were dissolved in 150 ml of a toluene/dioxane mixture (volume ratio 1/1) in the presence of Amberlyst 15 resin from Aldrich. The reaction mixture was heated at 100° C. for 3 hours. After cooling, the crude reaction product was filtered and the filtrate was concentrated under vacuum. The crude product was recrystallized hot from ethyl acetate. This gave 10 g of a white powder, which corresponds to the expected product (50% yield).

reactant | resorcinol | 10 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | itaconic acid | 11.8 g | C(C(=C)CC(=O)O)(=O)O | C5H6O4
solvent | toluene dioxane | 150 ml | C1(=CC=CC=C1)C.O1CCOCC1
product | (7-hydroxy-2-oxo-3,4-dihydro-2H-chromen-3-yl)acetic acid | 50% yield | OC1=CC=C2CC(C(OC2=C1)=O)CC(=O)O | C11H10O5
